US05039805
4-Cyanobenzoic acid is activated with 2-chloro-4,6-dimethoxy-1,3,5-triazine and N-methylmorpholine analogously to Example 1 and subsequently reacted with 3-aminobenzoic acid in DMF/CH2Cl2. There is obtained m-(p-cyanobenzamido)benzoic acid in the form of colourless crystals. Yield: 70%, m.p. 267° C. (ethyl acetate/acetonitrile).

reactant | 4-Cyanobenzoic acid | C(#N)C1=CC=C(C(=O)O)C=C1 | C8H5NO2
reactant | 2-chloro-4,6-dimethoxy-1,3,5-triazine | ClC1=NC(=NC(=N1)OC)OC | C5H6ClN3O2
reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
reactant | 3-aminobenzoic acid | NC=1C=C(C(=O)O)C=CC1 | C7H7NO2
solvent | DMF CH2Cl2 | CN(C)C=O.C(Cl)Cl
product | m-(p-cyanobenzamido)benzoic acid | Yield: 70% | C(#N)C1=CC=C(C(=O)NC=2C=C(C(=O)O)C=CC2)C=C1 | C15H10N2O3
